US08022062B2
Dissolve 6-(2-amino-ethoxy)-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (100 mg, 0.297 mmol) in DCM (5 mL). Add 2-fluorobenzoyl chloride (39 μL, 0.326 mmol), triethylamine (62 μL, 0.445 mmol) and stir at ambient temperature for 72 h under nitrogen atmosphere. Dilute with DCM, add 1M aqueous HCl and extract the aqueous phase with DCM. Dry the combined organic extracts over MgSO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (7:3 and 2:1) to give 7-chloro-6-[2-(2-fluorobenzoylamino)-ethoxy]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (111 mg, 820%).

reactant | 6-(2-amino-ethoxy)-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.297 mmol, 100 mg | NCCOC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)Cl | C14H16ClF3N2O2
reactant | 2-fluorobenzoyl chloride | 0.326 mmol, 39 μL | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | triethylamine | 0.445 mmol, 62 μL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1M | Cl | ClH
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 7-chloro-6-[2-(2-fluorobenzoylamino)-ethoxy]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 111 mg, 820% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OCCNC(C1=C(C=CC=C1)F)=O | C21H19ClF4N2O3
